US09029374B2
A mixture of (R)-2-methylmorpholine hydrochloride (0.436 g, 3.17 mmol) and N-ethyl-N-isopropylpropan-2-amine (1.184 mL, 6.80 mmol) in DCM (5 mL) was added dropwise to a stirred solution of methyl 8-bromo-2-(ethylsulfonyl)-4-oxo-4H-chromene-6-carboxylate (0.85 g, 2.27 mmol) in DCM (10 mL) at 10° C. under argon. The resulting solution was stirred at RT for 3 hrs. The reaction mixture was quenched with 1M HCl, the phases were separated, the organic phase was washed with brine dried over magnesium sulfate and concentrated to afford the crude product which was purified by flash chromatography on silica gel eluting with 0 to 10% MeOH in DCM. The solvent was evaporated to dryness to afford after a trituration with ether, methyl 8-bromo-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate (0.760 g, 88%) as a pale yellow foam. Mass Spectrum: M+H+ 382. The reaction was repeated on a similar scale before proceeding to the next step.

reactant | (R)-2-methylmorpholine hydrochloride | 3.17 mmol, 0.436 g | Cl.C[C@@H]1CNCCO1
reactant | N-ethyl-N-isopropylpropan-2-amine | 6.80 mmol, 1.184 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl 8-bromo-2-(ethylsulfonyl)-4-oxo-4H-chromene-6-carboxylate | 2.27 mmol, 0.85 g | BrC=1C=C(C=C2C(C=C(OC12)S(=O)(=O)CC)=O)C(=O)OC | C13H11BrO6S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 8-bromo-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate | 0.760 g, 88% | BrC=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)OC | C16H16BrNO5
